US09388174B2
A reaction mixture solution prepared by dissolving 9.9 mg of ethyl 2-[4-(2-hydroxy-2-methylpropoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate in 1.0 mL of a mixed solution of tetrahydrofuran/methanol=1/1 and adding 0.2 mL of 2 M sodium hydroxide aqueous solution was stirred at room temperature for 3 hours. After the addition of 0.2 mL of 2 M hydrochloric acid to the reaction mixture solution under stirring, 3 mL of water was added and extraction was performed using 4 mL of ethyl acetate. The organic phase was concentrated and purified by a conventional method to obtain 4.8 mg of 2-[4-(2-hydroxy-2-methylpropoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylic acid.

reactant | ethyl 2-[4-(2-hydroxy-2-methylpropoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 9.9 mg | OC(COC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)N1N=NN=C1)(C)C | C18H21N5O4S
reactant | sodium hydroxide | 2 M, 0.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M, 0.2 mL | Cl | ClH
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran methanol | O1CCCC1.CO
product | 2-[4-(2-hydroxy-2-methylpropoxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-4-methyl-1,3-thiazole-5-carboxylic acid | 4.8 mg | OC(COC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)O)N1N=NN=C1)(C)C | C16H17N5O4S
